US07262201B1
A solution of 7-(3-chloropropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (3 g, 7.84 mmol) in 1-methylpiperazine (30 ml) was heated at 100° C. for 1 hour. After cooling, the mixture was partitioned between saturated ammonium chloride and methylene chloride. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 90/10). The volatiles were removed by evaporation to give 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (3.24 g, 92%).

reactant | 7-(3-chloropropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 7.84 mmol, 3 g | ClCCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C18H23ClN2O5
reactant | 1-methylpiperazine | 30 ml | CN1CCNCC1 | C5H12N2
product | 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 3.24 g, 92% | COC=1C=C2C(N(C=NC2=CC1OCCCN1CCN(CC1)C)COC(C(C)(C)C)=O)=O | C23H34N4O5
